data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "COc1cc(OC)cc(C2(O)C(=O)CC3CCC2(C)C3(C)C)c1.[H+]", "products": "COc1cc(OC)cc(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)c1"}, {"reactants": "COc1cc(OC)cc(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)c1", "products": "COc1cc(OC)cc([C+]2C(=O)CC3CCC2(C)C3(C)C)c1.O"}, {"reactants": "COc1cc(OC)cc([C+]2C(=O)CC3CCC2(C)C3(C)C)c1", "products": "COc1cc(OC)cc(C23CCC(CC2=O)C(C)(C)[C+]3C)c1"}, {"reactants": "COc1cc(OC)cc(C23CCC(CC2=O)C(C)(C)[C+]3C)c1", "products": "COc1cc(OC)cc(C2=C(C)C(C)(C)C(C#[O+])CC2)c1"}, {"reactants": "COc1cc(OC)cc(C2=C(C)C(C)(C)C(C#[O+])CC2)c1.O", "products": "COc1cc(OC)cc(C2=C(C)C(C)(C)C(C(=O)[OH2+])CC2)c1"}, {"reactants": "COc1cc(OC)cc(C2=C(C)C(C)(C)C(C(=O)[OH2+])CC2)c1", "products": "COc1cc(OC)cc(C2CCC(C(=O)O)C(C)(C)[C+]2C)c1"}, {"reactants": "COc1cc(OC)cc(C2CCC(C(=O)O)C(C)(C)[C+]2C)c1", "products": "COc1cc(OC)cc(C2CCC3C(=O)[OH+]C2(C)C3(C)C)c1"}, {"reactants": "COc1cc(OC)cc(C2CCC3C(=O)[OH+]C2(C)C3(C)C)c1", "products": "COc1cc(OC)cc(C2CCC3C(=O)OC2(C)C3(C)C)c1.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "Clc1cccc(C(Cl)O[C@@H]2[C@@H](OCc3ccccc3)CN3OC4(CC4)C[C@H]23)c1", "products": "[O]C1(C[C@H]2[N]C[C@H](OCc3ccccc3)[C@H]2OC(Cl)c2cccc(Cl)c2)CC1"}, {"reactants": "[O]C1(C[C@H]2[N]C[C@H](OCc3ccccc3)[C@H]2OC(Cl)c2cccc(Cl)c2)CC1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(Cl)c1cccc(Cl)c1"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(Cl)c1cccc(Cl)c1", "products": "O=C1CCN2C[C@H](OC(Cl)c3cccc(Cl)c3)[C@@H](OCc3ccccc3)[C@@H]2C1"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "O=C(c1cccc(F)c1F)C1C2CCC1C2", "products": "[O][C](c1cccc(F)c1F)C1C2CCC1C2"}, {"reactants": "[O][C](c1cccc(F)c1F)C1C2CCC1C2", "products": "[O]C(=CC1C[CH]CC1)c1cccc(F)c1F"}, {"reactants": "[O]C(=CC1C[CH]CC1)c1cccc(F)c1F", "products": "OC(=CC1C=CCC1)c1cccc(F)c1F"}, {"reactants": "OC(=CC1C=CCC1)c1cccc(F)c1F", "products": "O=C(CC1C=CCC1)c1cccc(F)c1F"}]}
{"conditions": [], "steps": [{"reactants": "ON[C@@H]1C[C@H](CBr)C[C@H]2CC=CC[C@H]21.C=O", "products": "[O-]C[NH+](O)[C@@H]1C[C@H](CBr)C[C@H]2CC=CC[C@H]21"}, {"reactants": "[O-]C[NH+](O)[C@@H]1C[C@H](CBr)C[C@H]2CC=CC[C@H]21", "products": "OCN(O)[C@@H]1C[C@H](CBr)C[C@H]2CC=CC[C@H]21"}, {"reactants": "OCN(O)[C@@H]1C[C@H](CBr)C[C@H]2CC=CC[C@H]21", "products": "C=[N+](O)[C@@H]1C[C@H](CBr)C[C@H]2CC=CC[C@H]21.[OH-]"}, {"reactants": "C=[N+](O)[C@@H]1C[C@H](CBr)C[C@H]2CC=CC[C@H]21", "products": "C=[N+]([O-])[C@@H]1C[C@H](CBr)C[C@H]2CC=CC[C@H]21"}, {"reactants": "C=[N+]([O-])[C@@H]1C[C@H](CBr)C[C@H]2CC=CC[C@H]21", "products": "BrC[C@@H]1C[C@H]2CC3O[N@]4CC3C[C@H]2[C@H]4C1"}]}
{"conditions": [{"role": "reagent", "text": "ZnCl2"}], "steps": [{"reactants": "COc1ccc(NN=CCc2ccccc2)c(F)c1Cl.Cl[Zn]Cl", "products": "COc1ccc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])c(F)c1Cl"}, {"reactants": "COc1ccc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])c(F)c1Cl", "products": "COc1ccc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])c(F)c1Cl.[H+]"}, {"reactants": "COc1ccc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])c(F)c1Cl", "products": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2cccc(F)c2Cl)C(=N)C=C1"}, {"reactants": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2cccc(F)c2Cl)C(=N)C=C1", "products": "COc1cc(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c(N)c(F)c1Cl"}, {"reactants": "COc1cc(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c(N)c(F)c1Cl", "products": "COc1cc2c(c(F)c1Cl)[NH2+]C([N-][Zn-]([Cl])[Cl])C2c1ccccc1"}, {"reactants": "COc1cc2c(c(F)c1Cl)[NH2+]C([N-][Zn-]([Cl])[Cl])C2c1ccccc1.[H+]", "products": "COc1cc2c(c(F)c1Cl)NC([NH2+][Zn-]([Cl])[Cl])C2c1ccccc1"}, {"reactants": "COc1cc2c(c(F)c1Cl)NC([NH2+][Zn-]([Cl])[Cl])C2c1ccccc1", "products": "COc1cc2c(c(F)c1Cl)[NH+]=CC2c1ccccc1.N[Zn-](Cl)Cl"}, {"reactants": "COc1cc2c(c(F)c1Cl)[NH+]=CC2c1ccccc1", "products": "COc1cc2c(-c3ccccc3)c[nH]c2c(F)c1Cl.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1c(C)cccc1C)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1c(C)cccc1C)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1c(C)cccc1C)C(C)C", "products": "Cc1cccc(C)c1[Si]1(c2ccccc2)OC(C(C)C)C[CH]2[CH2][RhH]21"}, {"reactants": "Cc1cccc(C)c1[Si]1(c2ccccc2)OC(C(C)C)C[CH]2[CH2][RhH]21", "products": "Cc1cccc(C)c1[Si]1(c2ccccc2)OC(C(C)C)CC1[CH2][RhH]"}, {"reactants": "Cc1cccc(C)c1[Si]1(c2ccccc2)OC(C(C)C)CC1[CH2][RhH].[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "Cc1cccc(C)c1[Si]1(c2ccccc2)OC(C(C)C)CC1C[C](=O)[RhH]"}, {"reactants": "Cc1cccc(C)c1[Si]1(c2ccccc2)OC(C(C)C)CC1C[C](=O)[RhH]", "products": "Cc1cccc(C)c1[Si]1(c2ccccc2)OC(C(C)C)CC1CC=O.[Rh]"}]}
